US06818203B2
a) 5,6-Bis(benzyloxy)-3oxa-hexanoic acid-t butylester
100 g (376.2 mmol) of 1,2-di-O-benzyl-glycerol [produced according to Chem. Phys. Lipids (1987), 43(2), 113-277] and 5 g of tetrabutylammonium hydrogen sulfate are dissolved in a mixture that consists of 400 ml of toluene and 200 ml of 50% aqueous sodium hydroxide solution. At 0° C., 78 g (400 mmol) of 2-bromoacetic acid-t butyl ester is added in drops over 30 minutes, and then it is stirred for 3 hours at 0° C. The organic phase is separated, dried on magnesium sulfate and evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: n-hexane/acetone=20:1).

reactant | 1,2-di-O-benzyl-glycerol | 376.2 mmol, 100 g | C(C1=CC=CC=C1)OCC(OCC1=CC=CC=C1)CO | C17H20O3
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
reactant | 2-bromoacetic acid-t butyl ester | 400 mmol, 78 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
catalyst | tetrabutylammonium hydrogen sulfate | 5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-Bis(benzyloxy)-3oxa-hexanoic acid-t butylester | C(C)(C)(C)OC(COCC(COCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C23H30O5
